US09260408B2
[A] 3-Bromo-5-chloromethyl-pyridine
To a solution of (5-bromopyridin-3-yl)methanol (3 g, 16.0 mmol) in DCM (15 mL) cooled to 0° C. was added thionylchloride (7.59 g, 63.8 mmol) dropwise and the reaction mixture was stirred at room temperature over night. The mixture was poured onto ice/water (20 mL), basified with NaOH conc. (8 mL) and extracted with EtOAc (2×50 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 40% EtOAc-Heptane gradient to give the title compound (3.08 g, 93%) as a white solid. MS: 206.0, 207.9 (M+H+).

reactant | (5-bromopyridin-3-yl)methanol | 16.0 mmol, 3 g | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | thionylchloride | 63.8 mmol, 7.59 g | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 8 mL | [OH-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-chloromethyl-pyridine | 3.08 g, 93% | BrC=1C=NC=C(C1)CCl | C6H5BrClN
